US07767672B2
N-(4-(4-(5-methylthiazol-2-ylamino)-6-(3-(dimethylamino)azetidin-1-yl)pyrimidin-2ylthio)phenyl)cyclopropane carboxamide
A suspension of N-(4-(4-(5-methylthiazol-2-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide (138 mg, 0.33 mmol), 3-dimethylaminoazetidine dihydrochloride (178 mg, 1.0 mmol), N,N-diisopropylethylamine (0.34 ml, 1.98 mmol) in n-butanol (10 ml) was heated at 90° C. for 17 h. Reaction mixture was then allowed to cool to room temperature, concentrated in vacuo. The crude product was purified on HPLC to give the title compound as an off-white solid (106 mg, 58%). 1H NMR (DMSO) 0.82-0.81 (4H, m), 1.87-1.81 (1H, m), 2.07 (3H, s), 2.78-2.77 (6H, m), 4.20 (5H, s), 5.56 (1H, s), 6.94 (1H, s), 7.52 (2H, d), 7.76 (2H, d), 10.55 (1H, s) MS(ES+): 482.

reactant | N-(4-(4-(5-methylthiazol-2-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide | 0.33 mmol, 138 mg | CC1=CN=C(S1)NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(=O)C1CC1 | C18H16ClN5OS2
reactant | 3-dimethylaminoazetidine dihydrochloride | 1.0 mmol, 178 mg | Cl.Cl.CN(C1CNC1)C
reactant | N,N-diisopropylethylamine | 1.98 mmol, 0.34 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | N-(4-(4-(5-methylthiazol-2-ylamino)-6-(3-(dimethylamino)azetidin-1-yl)pyrimidin-2ylthio)phenyl)cyclopropane carboxamide | 106 mg, 58% | CC1=CN=C(S1)NC1=NC(=NC(=C1)N1CC(C1)N(C)C)SC1=CC=C(C=C1)NC(=O)C1CC1 | C23H27N7OS2
